US06369075B1
2-(5-Trifluoromethyl-pyridin-2-yl)-benzoic acid isopropyl ester
2-(Isopropylcarboxy)-phenylboronic acid (S. Caron and J. M. Hawkins, J. Org. Chem. 1998, 63, 2054-2055) (2.2 g, 10.6 mmol) and 2-chloro-5-trifluoromethylpyridine (500 mg, 2.75 mmol) were dissolved in toluene. Tetrakis(triphenylphosphine)palladium (160 mg, 0.14 mmol) was added and the reaction vessel purged by alternating vacuum and nitrogen gas three times. 8 ml of a 10% sodium carbonate solution was added and the reaction mixture was heated at reflux for 1.5 h. The resulting mixture was extracted with ethyl acetate, the combined organic layers dried (magnesium sulfate), filtered and concentrated under vacuum. Purification of the residue by column chromatography eluting with 10% ethyl acetate in hexanes provided the title compound in approximately 70% yield.

reactant | 2-(Isopropylcarboxy)-phenylboronic acid | 10.6 mmol, 2.2 g | C(C)(C)OC(=O)C1=C(C=CC=C1)B(O)O | C10H13BO4
reactant | 2-chloro-5-trifluoromethylpyridine | 2.75 mmol, 500 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 0.14 mmol, 160 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-Trifluoromethyl-pyridin-2-yl)-benzoic acid isopropyl ester | approximately 70% yield | C(C)(C)OC(C1=C(C=CC=C1)C1=NC=C(C=C1)C(F)(F)F)=O | C16H14F3NO2
